US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-piperidin-4-ylpyrimidin-2-amine (18 mg) and N,N-dimethylformamide (0.36 mL) were added N,N-dimethylglycine (4.8 mg), 1-hydroxybenzotriazole (6.2 mg), and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (8.8 mg), and the mixture was stirred at room temperature for 6 hours. To the reaction mixture was added water, followed by extraction with chloroform. The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by amino silica gel column chromatography (ethyl acetate, and subsequently chloroform:methanol=96:4). Desired fractions were combined and concentrated under reduced pressure. The residue was solidified by the addition of a small amount of diisopropyl ether to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-{1-[(dimethylamino)acetyl]piperidin-4-yl}-6-morpholin-4-ylpyrimidin-2-amine (9 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-piperidin-4-ylpyrimidin-2-amine | 18 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CCNCC1)C=CC=C2)F | C21H25F2N7O
reactant | N,N-dimethylglycine | 4.8 mg | CN(CC(=O)O)C | C4H9NO2
reactant | 1-hydroxybenzotriazole | 6.2 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 8.8 mg | Cl.CN(CCCN=C=NCC)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.36 mL | CN(C=O)C | C3H7NO
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-N-{1-[(dimethylamino)acetyl]piperidin-4-yl}-6-morpholin-4-ylpyrimidin-2-amine | 9 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CCN(CC1)C(CN(C)C)=O)C=CC=C2)F | C25H32F2N8O2
